US07872028B2
To a solution of 2-ethylphenylboronic acid (4.50 g, 30 mmol), 2-bromophenol (3.54 g, 20 mmol), and Cu(OAc)2 (1.86 g, 10 mmol) in anhydrous CH2Cl2 (50 mL) were added activated 4 Å molecular sieves (˜0.5 g), followed by anhydrous Et3N (7.0 mL, 50 mmol). The resulting dark green solution was stirred at rt for 48 h. The solvent was removed under vacuum and the residue was triturated several times with ether (˜200 mL). The combined organic solutions were washed with satd aq NH4Cl, and 1 N aq HCl aqueous solution, and solvent was removed under vacuum to give a crude product. Flash column chromatography gave 1-bromo-2-(2-ethylphenoxy)benzene (1.72 g, 31%) as a clear oil; 1H NMR (CDCl3, 400 MHz) δ: 7.62 (dd, 1H), 7.28 (m, 1H), 7.22-7.08 (m, 3H), 6.96 (m, 1H), 6.78 (m, 2H), 2.64 (q, 2H), 1.22 (t, 3H); MS no ionization was observed.

reactant | 2-ethylphenylboronic acid | 30 mmol, 4.50 g | C(C)C1=C(C=CC=C1)B(O)O | C8H11BO2
reactant | 2-bromophenol | 20 mmol, 3.54 g | BrC1=C(C=CC=C1)O | C6H5BrO
reactant | Et3N | 50 mmol, 7.0 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | Cu(OAc)2 | 10 mmol, 1.86 g | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 1-bromo-2-(2-ethylphenoxy)benzene | 1.72 g, 31% | BrC1=C(C=CC=C1)OC1=C(C=CC=C1)CC | C14H13BrO
